US05447957
d) Benzhydrol 2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoate
2-(2-Amino-4-trifluoromethylphenoxy)-4-methoxybenzoic acid (4.0 g, 0.012 mol) was dissolved in ethyl acetate. Diphenyldiazomethane was dissolved in toluene and added dropwise to the ethyl acetate mixture for 16 h, under argon, in a 50° C. oil bath. The solvent was evaporated and the residue flash chromatographed (silica gel, ethyl acetate/hexane) to yield the title compound. 1H NMR (250 MHz, CDCl3) δ8.05 (d, 1H), 7.25 (s, 1H), 7.06 (s, 1H), 6.98 (s, 1H), 6.90 (d, 1H), 6.80-6.70 (m, 2H), 6.52 (d, 1H), 4.01 (s, 2H), 3.80 (s, 3H).

reactant | 2-(2-Amino-4-trifluoromethylphenoxy)-4-methoxybenzoic acid | 0.012 mol, 4.0 g | NC1=C(OC2=C(C(=O)O)C=CC(=C2)OC)C=CC(=C1)C(F)(F)F | C15H12F3NO4
reactant | Diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Benzhydrol 2-(2-amino-4-trifluoromethylphenoxy)-4-methoxybenzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.NC1=C(OC2=C(C(=O)[O-])C=CC(=C2)OC)C=CC(=C1)C(F)(F)F | InChI=1S/C15H12F3NO4.C13H12O/c1-22-9-3-4-10(14(20)21)13(7-9)23-12-5-2-8(6-11(12)19)15(16,17)18;14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12/h2-7H,19H2,1H3,(H,20,21);1-10,13-14H/p-1
